US08865736B2
2,6-Difluoro-3-[4-(4-methoxy-phenyl)-thiazol-2-ylmethoxy]-benzamide
To a solution of 3-[5-bromo-4-(4-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide (2.0 g, 4.37 mmol) in the 50 ml of acetic acid was added Zn dust (2.0 g). The reaction mixture was heated at 120° C. for 1 h. After the completion of the reaction mixture (TLC monitoring), water (100 mL) was added and pH was adjusted to 8-9 with NaOH solution and extracted with ethyl acetate (3×150 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated to get the desired product (0.8 g, 50%) as a white solid.

reactant | 3-[5-bromo-4-(4-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide | 4.37 mmol, 2.0 g | BrC1=C(N=C(S1)COC=1C(=C(C(=O)N)C(=CC1)F)F)C1=CC=C(C=C1)OC | C18H13BrF2N2O3S
reactant | water | 100 mL | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | Zn | 2.0 g | [Zn] | Zn
product | 2,6-Difluoro-3-[4-(4-methoxy-phenyl)-thiazol-2-ylmethoxy]-benzamide | 0.8 g, 50% | FC1=C(C(=O)N)C(=CC=C1OCC=1SC=C(N1)C1=CC=C(C=C1)OC)F | C18H14F2N2O3S
